US07595312B2
10.75a methyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoate
A solution of 3.0 g (8.83 mmol) 1-methyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate and 3.05 g (9.5 mmol) TBTU, 1.28 g (9.47 mmol) HOBT in 1.7 mL (9.76 mmol) ethyldiisopropylamine and 1100 mL DMF was stirred for 1 h at RT. Then 2.2 g (9.51 mmol) 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one were added and the reaction solution was stirred overnight at RT. The reaction mixture was evaporated down i.vac., the residue was taken up in DCM, washed with 10% citric acid solution and 15% K2CO3 solution and dried over Na2SO4. The desiccant was eliminated by filtering through activated charcoal; after elimination of the solvent the desired product was obtained.

reactant | 1-methyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate | 8.83 mmol, 3.0 g | NC1=C(C=C(C[C@H](C(=O)OC)CC(=O)[O-])C=C1C(F)(F)F)Cl
reactant | TBTU | 9.5 mmol, 3.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 9.47 mmol, 1.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyldiisopropylamine | 9.76 mmol, 1.7 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 9.51 mmol, 2.2 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | DMF | 1100 mL | CN(C)C=O | C3H7NO
product | methyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoate | NC1=C(C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O4
